Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])[H:10].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],5.275634153
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2],10.5830894685
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][C:8]=[C:9]([H:10])[H:11],3.7310610532
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],2.46547986853
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-4.52856774967
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-6.23555876541
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.28578189444
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.71160122744
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10]>>[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9],3.99109465809
[H:7].[O:1]1/[C:2](=[C:5](/[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13])[C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.82211882017
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1][C:2][O:3].[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.61445121539
[C:3]([H:4])[H:5].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[H:5],-6.84250279974
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12].[H:6],1.67512197181
[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.44892845646
[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.59412211364
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],6.4150619969800005
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[H:8],4.1161520966000005
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[C:9]([H:10])([H:11])[O:12][H:13],3.77709875816
[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1]=[C:2]=[O:3]>>[O:1][C:2](=[O:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],1.1330158495799998
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.444657492446
[C:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-3.88569255754
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][H:8],2.1547368225
[H:1][C:2]#[C:3][O:5][O:6][H:7].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][H:7],-2.2209972446
[O:1]=[C:2][C:3](=[C:4]=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1][C:2][C:3]#[C:4][O:5],1.05194457763
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11],7.632939994860001
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:9]#[C:10][H:11].[H:8],3.73317907944
[C:11]([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-7.397723769330001
